US07442805B2
Synthesis of 1-methyl-3-phenyl-5-({[4-(trifluoromethoxy)phenyl]sulfonyl}amino)-1H-indole-2-carboxylic acid
The title compound was prepared from ethyl 1-methyl-5-nitro-3-phenyl-1H-indole-2-carboxylate and 4-trifluoromethoxy-benzenesulfonyl chloride followed the procedures of Example 1 Step 2 & Step 3 as an off-white solid: 1H NMR (DMSO-d6) δ 3.95 (s, 3H), 6.98 (d, J=2.8 Hz, 1H, 7.11 (dd, J=8.8, 1.7 Hz, 1H, 7.21 (d, J=8.0 Hz, 2H, 7.30-7.45 (m, 3H, 7.50-7.60 (m, 3H, 7.74 (d, J=8.7 Hz, 2H, 9.98 (s, 1H, 13.00 (br s, 1H; MS (ESI) m/z 489[M-H]−; HRMS calcd for C23H18F3N2O5S: 491.0886; found (ESI+): 491.0878; Anal. calcd for C23H17F3N2O5S.0.4H2O: C, 55.51; H, 3.61; N, 5.63. Found: C, 55.61; H, 3.39; N, 5.77.

reactant | ethyl 1-methyl-5-nitro-3-phenyl-1H-indole-2-carboxylate | CN1C(=C(C2=CC(=CC=C12)[N+](=O)[O-])C1=CC=CC=C1)C(=O)OCC | C18H16N2O4
reactant | 4-trifluoromethoxy-benzenesulfonyl chloride | FC(OC1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O3S
product | 1-methyl-3-phenyl-5-({[4-(trifluoromethoxy)phenyl]sulfonyl}amino)-1H-indole-2-carboxylic acid | CN1C(=C(C2=CC(=CC=C12)NS(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F)C1=CC=CC=C1)C(=O)O | C23H17F3N2O5S
